US05030629
Preparation of 1-(2-Hydroxyethyl)-2-undecyl-2-imidazoline
58.7 g (564.4 mmoles) of 2-(2-aminoethylamino)ethanol and 122.8 g (538.6 mmoles) of ethyl dodecanoate were heated at 125° C. and ethanol was removed by distillation. 100 ml of toluene was cautiously added and water was removed azeotropically on further reflux. The reaction mixture was fractionally distilled to give 100.2 g (69.5%) of pure product, m.p. 40°-42° C.

reactant | 2-(2-aminoethylamino)ethanol | 564.4 mmoles, 58.7 g | NCCNCCO | C4H12N2O
reactant | ethyl dodecanoate | 538.6 mmoles, 122.8 g | C(CCCCCCCCCCC)(=O)OCC | C14H28O2
product | 1-(2-Hydroxyethyl)-2-undecyl-2-imidazoline | 100.2 g, 69.5% | OCCN1C(=NCC1)CCCCCCCCCCC | C16H32N2O
